* source BBCIRCUIT_SIMULATION
M_M1         N74928 N759731 N74964 N74964 IRF150
M_M2         N74964 N760501 0 0 IRF150
M_M3         N75020 N761271 N74984 N74984 IRF150
M_M4         N74984 N761681 0 0 IRF150
D_D1         N75152 N74928 MBR1045 
C_C2         N74940 N74928  10u  TC=0,0 
C_C1         0 N75232  10u  TC=0,0 
C_C3         0 N74940  10u  TC=0,0 
C_C4         N74988 N75020  10u  TC=0,0 
C_C5         0 N74988  10u  TC=0,0 
C_C6         0 N75020  10u  TC=0,0 
R_R1         N75064 N75152  0.1 TC=0,0 
R_R2         N75156 N75232  0.1 TC=0,0 
R_R3         N75020 N75648  0.1 TC=0,0 
R_R4         0 N75648  50 TC=0,0 
L_L1         N75232 N74964  5mH  
L_L2         N74964 N74980  5mH  
V_V1         N759731 N74964  
+PULSE 0 5 0 0.01us 0.01us {DUTY1} 10us
V_V2         N760501 0  
+PULSE 0 5 0 0.01us 0.01us {DUTY2} 10us
V_V3         N761271 N74984  
+PULSE 0 5 0 0.01us 0.01us {DUTY3} 10us
V_V4         N761681 0  
+PULSE 0 5 0 0.01us 0.01us {DUTY4} 10us
V_V5         N75064 0 {SOLAR}
V_V6         N75156 0 {BATTERY}
L_L3         N74980 N74940  5mH  
L_L4         N74984 N74988  5mH  
Kn_K1         L_L3 L_L4     1
.PARAM  solar=0 duty1=0 duty2=0 battery=0 duty3=0 duty4=0
