* source BBCIRCUIT_SIMULATION
M_M1         N74928 N759731 N74964 N74964 IRF150
M_M2         N74964 N760501 0 0 IRF150
M_M3         N75020 N761271 N74984 N74984 IRF150
M_M4         N74984 N761681 0 0 IRF150
D_D1         N75152 N74928 MBR1045 
C_C1         0 N75232  2000u  TC=0,0 
R_R1         N75064 N75152  0.1 TC=0,0 
R_R2         N75156 N75232  0.1 TC=0,0 
R_R3         N75020 N75648  0.1 TC=0,0 
R_R4         0 N75648  50 TC=0,0 
L_L1         N75232 N74964  5mH  
V_V1         N759731 N74964  
+PULSE 0 5 {PHASE1} 0.01us 0.01us {DUTY1} 10us
V_V2         N760501 0  
+PULSE 5 0 {PHASE2} 0.01us 0.01us {DUTY2} 10us
V_V3         N761271 N74984  
+PULSE 0 5 {PHASE3} 0.01us 0.01us {DUTY3} 10us
V_V4         N761681 0  
+PULSE 5 0 {PHASE4} 0.01us 0.01us {DUTY4} 10us
V_V5         N75064 0 {SOLAR}
V_V6         N75156 0 {BATTERY}
L_L3         N80643 N74940  5mH  
L_L4         N74984 N75000  50mH  
Kn_K1         L_L3 L_L4     1
C_C7         N74928 N74940  2000u  
C_C8         N74940 0  2000u  
C_C13         N75020 N75000  2000u  
C_C14         N75000 0  2000u  
C_C15         N75020 0  2000u  
L_L5         N74964 N80643  5mH  
D_D2         N74964 N74928 MBR1045 
D_D3         0 N74964 MBR1045 
C_C16         N74928 N74940  2000u  
C_C17         N74940 0  2000u  
.PARAM  phase_diff=1us dead_area=0.1us phase1=0.2us phase2=0 phase3=1.2us
+  duty1=8us solar=17 battery=12 duty2=8.4us phase4=1us duty3=8us duty4=8.4us
